US07067658B2
(S)-[4-(2-Chloro-5-fluoro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-cyclopropyl-propyl)-amine (30 mg, 0.08 mmol) and SnCl2 (44 mg, 0.23 mmol) were treated substantially as described in Part D of Example 74a to yield 25 mg (92%) of (S)-4-(2-chloro-5-fluoro-4-methoxy-phenyl)-N2-(1-cyclopropyl-propyl)-pyridine-2,3-diamine.

reactant | (S)-[4-(2-Chloro-5-fluoro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-cyclopropyl-propyl)-amine | 0.08 mmol, 30 mg | ClC1=C(C=C(C(=C1)OC)F)C1=C(C(=NC=C1)N[C@@H](CC)C1CC1)[N+](=O)[O-] | C18H19ClFN3O3
reactant | SnCl2 | 0.23 mmol, 44 mg | Cl[Sn]Cl
product | (S)-4-(2-chloro-5-fluoro-4-methoxy-phenyl)-N2-(1-cyclopropyl-propyl)-pyridine-2,3-diamine | 25 mg, 92% | ClC1=C(C=C(C(=C1)OC)F)C1=C(C(=NC=C1)N[C@@H](CC)C1CC1)N | C18H21ClFN3O
